US07964618B2
Ethanethiol (0.433 mL, 5.84 mmol) was added to N-(2-adamantyl)-2,6-dichloro-pyridine-3-carboxamide (2 g, 6.15 mmol), and sodium carbonate (1.955 g, 18.45 mmol) in DMF (12 mL) at 20° C. under nitrogen. The resulting suspension was stirred at 60° C. for 3 hours. The reaction mixture was diluted with EtOAc (100 mL) and washed with water (3×20 mL), and saturated brine (25 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product which was recrystallised from 15% ethyl acetate/hexane to give N-(2-adamantyl)-6-chloro-2-ethylsulfanyl-pyridine-3-carboxamide (1.489 g, 69%)

reactant | Ethanethiol | 5.84 mmol, 0.433 mL | C(C)S | C2H6S
reactant | N-(2-adamantyl)-2,6-dichloro-pyridine-3-carboxamide | 6.15 mmol, 2 g | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C(=NC(=CC2)Cl)Cl | C16H18Cl2N2O
reactant | sodium carbonate | 18.45 mmol, 1.955 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-(2-adamantyl)-6-chloro-2-ethylsulfanyl-pyridine-3-carboxamide | 1.489 g, 69% | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C(=NC(=CC2)Cl)SCC | C18H23ClN2OS
